US05073629
A mixture of methyl 6-dimethylamino-4,4-diphenyl-heptanoate (obtained above), potassium carbonate (500 mg), methanol (5 ml) and water (1 ml) was stirred at room temperature for 24 hours. The reaction mixture was diluted with water, acidified with 1N HCl to pH 1, and extracted with chloroform (3×). The combined extracts were washed with water and brine (once each). After drying over magnesium sulfate, the solution was rotary evaporated to yield 40 mg of 6-dimethylamino-4,4-diphenyl-heptanoic acid.

reactant | methyl 6-dimethylamino-4,4-diphenyl-heptanoate | CN(C(CC(CCC(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C22H29NO2
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 5 ml | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 6-dimethylamino-4,4-diphenyl-heptanoic acid | 40 mg | CN(C(CC(CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C21H27NO2
